US04914104
Preparation of 2-[N-(2-thenoyl)aminomethyl]-4,6-dihydroxypyrimidine
To a solution of sodium (1.4 g) in ethanol (120 ml) was added malonamide (3.8 g) and the mixture was heated at 60° C. for an hour under stirring. Then after added N-(2-thenoyl)glycine ethyl ester (8 g), the mixture was refluxed for 6 hours. The mixture was concentrated to give the residue which was diluted with water. The aqueous mixture was neutralized by adding acetic acid to deposit a crystalline product which was collected by filtration and recrystallized from dimethylformamide (DMF) to give the objective product (2.8 g) as colorless crystals, mp 270°-275° C. (decompd.).

reactant | sodium | 1.4 g | [Na] | Na
reactant | malonamide | 3.8 g | C(CC(=O)N)(=O)N | C3H6N2O2
reactant | N-(2-thenoyl)glycine ethyl ester | 8 g | C(C)OC(CNC(C1=CC=CS1)=O)=O | C9H11NO3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-[N-(2-thenoyl)aminomethyl]-4,6-dihydroxypyrimidine | 2.8 g | C1(=CC=CS1)C(=O)NCC1=NC(=CC(=N1)O)O | C10H9N3O3S
